US07582631B2
(S)-{4-[5-(5-(2-Phenoxy-ethyl)-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo [1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine
A solution of 100 mg (0.24 mmol) {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine and 70 mg (0.48 mmol) potassium carbonate in 5 mL acetonitrile was treated with 0.074 mL (0.48 mmol) β-bromophenetole at 0° C. The mixture was stirred at 50° C. for 8 h before it was cooled to ambient temperature for 16 h at which time MS showed that all starting materials had converted to product. The reaction mixture was diluted with 50 mL DCM, washed with 50 mL satd. NaHCO3, and dried over anhydrous Na2SO4. After purification by chromotography, the title compound was obtained.

reactant | {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | 0.24 mmol, 100 mg | C12N(CC(NC1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)NC(C)C1=CC=CC=C1 | C24H25N7
reactant | potassium carbonate | 0.48 mmol, 70 mg | C([O-])([O-])=O.[K+].[K+]
reactant | β-bromophenetole | 0.48 mmol, 0.074 mL | BrCCOC1=CC=CC=C1 | C8H9BrO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-{4-[5-(5-(2-Phenoxy-ethyl)-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo [1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | O(C1=CC=CC=C1)CCN1[C@@H]2CN([C@H](C1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1 | C32H33N7O
